US08217028B2
To a stirred solution of 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indole-3-carbaldehyde (D61) (200 mg), N-methylglycine (93 mg) and acetic acid (32 mg) in DCM (10 mL) was added NaBH(OAc)3 (223 mg). The reaction was stirred at 40° C. overnight. After cooled to room temperature, the reaction mixture was diluted with DCM (10 mL), washed with water (20 mL) and aqueous saturated sodium bicarbonate (20 mL). The organic phase was separated and dried over anhydrous sodium sulphate. After concentration, the residue was purified by Mass Directed Auto Prep to afford N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-N-methylglycine (E52) (210 mg, TFA salt). δH (DMSO-d6, 400 MHz): 1.36 (6H, d), 2.80 (3H, s), 4.01 (2H, s), 4.57 (2H, s), 4.90 (1H, m), 7.35 (1H, t), 7.46 (1H, d), 7.75 (1H, d), 8.01 (1H, d), 8.07 (1H, d), 8.21 (1H, dd), 8.39 (1H, d), 11.48 (1H, br s). MS (ES): C23H23ClN4O4 requires 454; found 366.1 (M—C3H6NO2+).

reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indole-3-carbaldehyde | 200 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)C=O | C21H18ClN3O3
reactant | N-methylglycine | 93 mg | CNCC(=O)O | C3H7NO2
reactant | acetic acid | 32 mg | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 223 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-N-methylglycine | 210 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CN(CC(=O)O)C | C23H23ClN4O4
